US07196104B2
Preparation DG: 2-Bromo-6-(4-pyrrolidin-1-ylmethylphenoxy)pyridine
To a stirred suspension of NaH (2.6 g, 108.5 mmol) in DMF (300 mL) at 0° C., under N2, a solution of 4-pyrrolidin-1-ylmethylphenol (16 g, 90.4 mmol) was added slowly. After stirring at 0° C. for 30 min, 2,6-dibromopyridine (23.6 g, 99.4 mmol) was added and the resulting mixture was heated at 95° C. for 20 h. After cooling to RT, 200 mL of H2O was added and the mixture was extracted with EtOAc (3×300 mL). The combined organic layer was washed with brine (3×400 mL), dried over MgSO4, filtered and concentrated under reduced pressure to yield the title compound as an amber solid. This was used crude in the next step. MS m/z: 333 (M+1). Calc'd for C16H17BrN2O-333.2

reactant | NaH | 108.5 mmol, 2.6 g | [H-].[Na+]
reactant | 4-pyrrolidin-1-ylmethylphenol | 90.4 mmol, 16 g | N1(CCCC1)CC1=CC=C(C=C1)O | C11H15NO
reactant | 2,6-dibromopyridine | 99.4 mmol, 23.6 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | H2O | 200 mL | O | H2O
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 2-Bromo-6-(4-pyrrolidin-1-ylmethylphenoxy)pyridine | BrC1=NC(=CC=C1)OC1=CC=C(C=C1)CN1CCCC1 | C16H17BrN2O
